US09428452B2
2-ethyl-N-isobutylaniline
2-ethylaniline (0.102 mL, 0.825 mmol), 2-methylpropan-1-ol (0.305 mL, 3.30 mmol), potassium iodide (274 mg, 1.650 mmol) and [Cp*IrCl2]2 (10.52 mg, 0.013 mmol) were added to a microwave vial with water (1.5 mL). This was heated, by microwaves, for 90 minutes at 150° C. Dichloromethane (10 mL) and water (10 mL) were added and the phases separated using a hydrophobic frit. The aqueous layer was further extracted with dichloromethane (15 mL). The combined organic layers were concentrated under vacuum and purified by silica (Si) chromatography (0-50% dichloromethane-cyclohexane gradient). The relevant fractions were concentrated to provide the product as a clear oil, 0.83 mg. LCMS [LCMS1] Rt 1.26 min, m/z (ES+) 178 (M+H).

reactant | 2-ethylaniline | 0.825 mmol, 0.102 mL | C(C)C1=C(N)C=CC=C1 | C8H11N
reactant | 2-methylpropan-1-ol | 3.30 mmol, 0.305 mL | CC(CO)C | C4H10O
reactant | potassium iodide | 1.650 mmol, 274 mg | [I-].[K+]
solvent | water | 10 mL | O | H2O
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 1.5 mL | O | H2O
product | 2-ethyl-N-isobutylaniline | C(C)C1=C(NCC(C)C)C=CC=C1 | C12H19N
